US05863929
A) Preparation of 3-amino-4,6,7-trifluoro-1,2-benzisoxazole-5-carbonitrile
To a stirring solution of N,N-diisopropylethylamine (19.2 g, 110 mmol) in CH3CN (100 mL) was added acetone oxime (8 g, 110 mmol). After stirring for 30 min, a solution of tetrafluoroterephthalonitrile (20 g, 100 mmol) in CH3CN (50 mL) was added; and the mixture was stirred overnight. Saturated aqueous ammonium chloride (100 mL) was added and the solvents were removed in vacuo. The residue was partitioned between EtOAc and brine. The layers were separated and the organic phase was washed once with brine, dried (MgSO4), filtered and concentrated. This crude solid was suspended in EtOH (150 mL) and concentrated HCl (50 mL) and water (100 mL) were added. This was refluxed for 3 h. After cooling to room temperature, the solvents were removed in vacuo. The residue was treated with saturated aqueous sodium bicarbonate (200 mL), and the product was extracted by washing the aqueous layer three times with EtOAc. This organic solution was washed once with brine, dried (MgSO4), filtered and concentrated to give a yellow solid. The crude product was purified by silica gel chromatography, eluting with a gradient of hexanes to 40% EtOAc/hexanes (9.2 g, 43%).

reactant | N,N-diisopropylethylamine | 110 mmol, 19.2 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetone oxime | 110 mmol, 8 g | CC(C)=NO | C3H7NO
reactant | tetrafluoroterephthalonitrile | 100 mmol, 20 g | FC1=C(C(=C(C(=C1C#N)F)F)C#N)F | C8F4N2
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | CH3CN | 100 mL | CC#N | C2H3N
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | 3-amino-4,6,7-trifluoro-1,2-benzisoxazole-5-carbonitrile | NC1=NOC2=C1C(=C(C(=C2F)F)C#N)F | C8H2F3N3O
